******************************************************************************
*  Simulation model of 1EDN7116U Level 3 for SIMetrix version 8.3g or higher
*  Version: 01.00 (Revision: 974)
*  (C) Copyright 2022 Infineon Technologies. All rights reserved. 
*
******************************************************************************
*  Model performance : 
*  - Static Electrical Characteristics and Dynamic Electrical Characteristics 
*    are modeled with the typical values from the datasheet.
*  - Temperature effects are modeled
*
*  The following features have been modeled :
*  - Switching Characteristics such as propagation delay, peak currents, output resistance
*  - Undervoltage lockout 
*  - Current consumption
******************************************************************************
* PINS:
*  --------------------------------------------------------------------------
*  | NAME    | DESCRIPTION 
*  --------------------------------------------------------------------------
*  | IN+     | Connected to PWM output controller via 47 kohm or 75 kohm resistor 
*  --------------------------------------------------------------------------
*  | IN-     | Connected to controller ground via 47 kohm or 75 kohm resistor 
*  --------------------------------------------------------------------------
*  | VSS     | Return path for VDD and thermal dissipation pad 
*  --------------------------------------------------------------------------
*  | VDD     | Gate drive supply 
*  --------------------------------------------------------------------------
*  | BST     | Bootstrap diode anode connection point, when used as low-side driver in a half-bridge configuration 
*  --------------------------------------------------------------------------
*  | OUT_SNK | Low-impedance gate pull-down to VOFF (including active Miller clamp) 
*  --------------------------------------------------------------------------
*  | OUT_SRC | Low-impedance gate pull-up to VDD 
*  --------------------------------------------------------------------------
*  | TAMB    | Ambient temperature 
*  --------------------------------------------------------------------------
*  | TJ      | Junction temperature 
*  --------------------------------------------------------------------------
*
******************************************************************************
* DISCLAIMER
* 
* INFINEON’S MODEL TERMS OF USE
*
* BY DOWNLOADING AND/OR USING THIS INFINEON MODEL (“MODEL”), THE USER
* (INCLUDING YOU) AGREES TO BE BOUND BY THE TERMS OF USE HERE STATED. IF USER
* DOES NOT AGREE TO ALL TERMS OF USE HERE STATED, USER SHALL NOT DOWNLOAD,
* USE OR COPY THE MODEL BUT IMMEDIATELY DELETE IT (TO THE EXTENT THAT IT
* WAS DOWNLOADED ALREADY).
*
* 1. SCOPE OF USE
* 1.1 Any use of this Model provided by Infineon Technologies AG is subject
*     to these Terms of Use.
* 1.2 This Model, provided by Infineon, does not fully represent all of the
*     specifications and operating characteristics of the product to which
*     this Model relates.
* 1.3 This Model only describes the characteristics of a typical product.
*     In all cases, the current data sheet information for a given product
*     is the final design guideline and the only actual performance
*     specification. Although this Model can be a useful tool to evaluate
*     the product performance, it cannot simulate the exact product performance
*     under all conditions and it is also not intended to replace
*     bread-boarding for final verification.
*
* 2. IMPORTANT NOTICE
* 2.1 Infineon Technologies AG (“Infineon”) is not and cannot be aware of the
*     specific application of the Infineon’s Model by User. However, Model may
*     from time to time be used by User in potentially harmful and/or life-
*     endangering applications such as traffic, logistic, medical, nuclear
*     or military applications or in other applications where failure of the
*     Model may predictably cause damage to persons’ life or health or to
*     property (hereinafter "Critical Applications").
* 2.2 User acknowledges that Infineon has not specifically designed or
*     qualified the Model for Critical Applications that the Model may contain
*     errors and bugs and that User is required to qualify the Model for
*     Critical Applications pursuant to the applicable local quality, safety
*     and legal requirements before permitting or giving access to any such use.
*
* 3. CONFIDENTIAL INFORMATION
*     User shall treat ideas, concepts and information incorporated in the
*     Model, the documentation and the content of this Terms of Use (together
*     hereinafter "Confidential Information") confidential, not disclose it to
*     any third party unless otherwise agreed in writing between User and
*     Infineon, not use it for any other purposes than using the Model for
*     simulation and testing purposes only.
*
* 4. WARRANTY
* 4.1 User acknowledges that the Model is provided by Infineon under this Terms	       
*     of Use is provided free of charge and "AS IS" without any warranty or 	      
*     liability of any kind and Infineon hereby expressly disclaims any 		      
*     warranties or representations, whether express, implied, statutory or 	      
*     otherwise, including but not limited to warranties of workmanship, 		      
*     merchantability, fitness for a particular purpose, defects in the 		      
*     Model, or non-infringement of third parties intellectual property rights.	       
* 4.2 Infineon reserves the right to make corrections, deletions, modifications, 	      
*     enhancements, improvements and other changes to the Model at any time 	      
*     or to move or discontinue any Model without notice. 			      
* 										      
* 5. LIABILITY 									      
* 5.1 Nothing in this Terms of Use shall limit or exclude Infineon's liability 	      
*     under mandatory liability laws, for injuries to life, body or health,  	      
*     for fraudulent concealment of defects in the software, or in cases 		      
*     of Infineon's intentional misconduct or gross negligence. 			      
* 5.2 Without prejudice to Sections 5.1, in cases of Infineon's slight		       
*     negligent breach of obligations that restrict essential rights or duties 	      
*     arising from the nature of this Terms of Use in a way that there is a 	      
*     risk of non-achievement of the purpose of this Terms of Use or of an 	      
*     obligation whose observance User regularly may trust in and whereas		       
*     compliance with only makes proper execution of this Terms of Use 		      
*     possible, Infineon's liability shall be limited to the typically, 		      
*     foreseeable damage. 							      
* 5.3 Without prejudice to Sections 8.1 and 8.2, Infineon's liability under 	      
*     this Agreement shall be excluded in all other cases. 			      
* 										      
* 6. EXPORT REGULATIONS 								      
*     The User shall comply with all applicable national and international 	      
*     laws and regulations, in particular the applicable export control 		      
*     regulations and sanction programs. The User also agrees not to 		      
*     export, re-export or transfer any software or technology developed		       
*     with or using information, software or technology offered by Infineon, 	      
*     in violation of any applicable laws or regulations of the competent 	      
*     authorities. Further, the User shall neither use any products, 		      
*     information, software and technology offered by Infineon in or in 		      
*     connection with nuclear technology or weapons of mass destruction 		      
*     (nuclear, biological or chemical) and carriers thereof nor supply 		      
*     military consignees. 							      
* 										      
* 7. TERMINATION OF USE PERMIT 							      
*     If the User violates these Terms of Use, such User’s permit to use 		      
*     this Model terminates automatically. In addition, Infineon may 		      
*     terminate the User’s permit to use this Model at its discretion and 	      
*     at any time regardless of any violation of these Terms of Use. In 		      
*     any of the foregoing events, the User is obliged to immediately destroy 	      
*     any content that has been downloaded or printed from Infineon’s website. 	      
* 										      
* 8. MISCELLANEOUS 								      
* 8.1 These Terms of Use are subject to the laws of the Federal Republic 		      
*     of Germany with the exception of the United Nations on Purchase 		      
*     Contracts on the International Sale of Goods dated April 11, 1980 (CISG). 	      
*     The exclusive place of jurisdiction is Munich, Germany. 			      
* 8.2 Should any provision in these Terms of Use be or become invalid, the 	      
*     validity of all other provisions or agreements shall remain unaffected
*     thereby.
*
******************************************************************************
.SUBCKT 1EDN7116U IN+ IN- VSS VDD BST OUT_SNK OUT_SRC TAMB TJ
R_INP IN+ VSS 1E12
C_INP IN+ VSS 1F
R_IN- IN- VSS 1E12
C_IN- IN- VSS 1F
ROUT_SNK OUT_SNK VSS 1E12
ROUT_SRC OUT_SRC VSS 1E12
COUT_SNK OUT_SNK VSS 1E-12
COUT_SRC OUT_SRC VSS 1E-12
RBST BST VSS 1E12
CBST BST VSS 1E-12
RTAMB TAMB VSS 1E12
RTJ TJ VSS 1E12
RTC TC VSS 1E12
RVDD VDD VSS 1E12
X1 VDD VSS ONE_EDN7116U_CL_DIO PARAMS: P_V_BV=12 P_I_BV=100M
X2 VSS VDD ONE_EDN7116U_ESD_DIO PARAMS: P_V_BV=0.3 P_I_BV=1M
X12 IN+ IN- ONE_EDN7116U_CL_DIO PARAMS: P_V_BV=8.5 P_I_BV=10M
X13 IN- IN+ ONE_EDN7116U_CL_DIO PARAMS: P_V_BV=8.5 P_I_BV=10M
X_GD_TEMPLATE IN+ IN- VSS VDD BST OUT_SNK OUT_SRC TAMB TJ TC ONE_EDN7116U_GD_TEMPLATE
.ENDS 1EDN7116U
.SUBCKT ONE_EDN7116U_GD_TEMPLATE IN+ IN- VSS VDD BST OUT_SNK OUT_SRC TAMB TJ TC
V_H OUT_SRC1 OUT_SRC 0.0
V_L OUT_SNK1 OUT_SNK 0.0
V_B BST1 BST 0.0
E_POW POW 0 VALUE={ABS(V(VDD,OUT_SRC)*I(V_H))+ABS(V(OUT_SNK,VSS)*I(V_L)) + ABS(V(VDD,BST)*I(V_B)) + ABS(V(BST,VSS)*I(V_B))}
RTEMP TAMB 0 1K
GTEMP 0 TAMB VALUE = {1M*TEMP}
CTEMP TAMB 0 1N
XTHERMAL_NETS TAMB TJ TC POW ONE_EDN7116U_THERMAL_NETS
RX TJ VSS 1E12
RY TC VSS 1E12
XINPUT_STAGE IN+ IN- VSS IN_DD TJ ONE_EDN7116U_INPUT_STAGE
XOUTPUT_STAGE VDD BST1 OUT_SRC1 OUT_SNK1 VSS IN_DD VDD_UV TJ ONE_EDN7116U_OUTPUT_STAGE
XVDD_UV_DETECT VDD_UV VDD VSS TJ ONE_EDN7116U_VDD_UV_DETECT
XCC_EMULATOR VDD VSS TJ ONE_EDN7116U_CC_EMULATOR
.ENDS ONE_EDN7116U_GD_TEMPLATE
.SUBCKT ONE_EDN7116U_INPUT_STAGE IN+ IN- VSS IN_DD TEMP
R1 IN+ INP 1.3K
R2 INP VSS 0.65K
R3 IN- INN 1.3K
R4 INN VSS 0.65K
E1 TH_UP 0 VALUE={TABLE(V(TEMP),-40,1.9,25,1.95,125,2)*TABLE( ((V(IN+) + V(IN-))/2) * (48.95/1.95) ,-150,0.923,0,1,150,1.128)}
E2 TH_DW 0 VALUE={TABLE(V(TEMP),-40,1.3,25, 1.35,125,1.4)*TABLE( ((V(IN+) + V(IN-))/2)* (48.95/1.95),-150,0.888,0,1,150,1.111)}
E3 TH_UP_2 0 VALUE={V(TH_UP)*0.65/(0.65+1.3+47)}
E4 TH_DW_2 0 VALUE={V(TH_DW)*0.65/(0.65+1.3+47)}
X_HIN_TH INP IN_DIG INN TH_UP_2 TH_DW_2 ONE_EDN7116U_STP_IDEAL_2
X1 IN_DIG IN_DIG_LPF ONE_EDN7116U_ADV_FILTER_TIME_2 PARAMS: TIME_SET=20N
X2 IN_DIG_LPF IN_DD TEMP ONE_EDN7116U_RC_DELAY_TEMP_10 PARAMS: TEMP1=-40 TEMP2=25 TEMP3=125 P_TH_TPD_TEMP1=0.5 P_TH_TPD_TEMP2=0.5 
+ P_TH_TPD_TEMP3=0.5 P_R_TPD_TEMP1=5.142857142857143 P_R_TPD_TEMP2=5.0 P_R_TPD_TEMP3=5.142857142857143
.ENDS ONE_EDN7116U_INPUT_STAGE
.SUBCKT ONE_EDN7116U_OUTPUT_STAGE VDD BST OUT_SRC OUT_SNK VSS IN_DD VDD_UV TEMP
X1BCDA VDD_UV VDD_UV_LPF ONE_EDN7116U_ADV_FILTER_TIME_2 PARAMS: TIME_SET=12U
X2BNH VDD_UV_LPF 0 CP_Q CP_QN ONE_EDN7116U_RS_LATCH
E1 OUT_GATE_DIG1 0 VALUE= {IF( V(IN_DD) > 0.5 & V(CP_Q) > 0.5,1,0)}
RA OUT_GATE_DIG1 OUT_GATE_DIG 1
CA OUT_GATE_DIG 0 1N
E2 OUT_GATE_VGSP 0 VALUE={TABLE(V(TEMP),-40, 3.08, 25,3, 125, 2.52 )}
E3 OUT_GATE_VGSN 0 VALUE={TABLE(V(TEMP),-40, 3.08, 25,3, 125, 2.52 ) }
E3XX OUT_GATE_VGSN_MILLER 0 VALUE={TABLE(V(TEMP),-40, 2.38, 25,2.1, 125, 1.9 ) }
E2A BST_VGSP 0 VALUE={TABLE(V(TEMP),-40, 3.08, 25,3, 125, 2.52 )}
E3A BST_VGSN 0 VALUE={TABLE(V(TEMP),-40, 3.08, 25,3, 125, 2.52 ) }
E_MILLER_H MILLER_H 0 VALUE={0.41}
E_MILLER_L MILLER_L 0 VALUE={0.4}
XCL OUT_SNK MILLER_DIG VSS MILLER_H MILLER_L ONE_EDN7116U_STP_IDEAL_2
ECL CLAMP 0 VALUE={IF(V(IN_DD) < 0.5 & V(VDD_UV) > 0.5 & V(MILLER_DIG) < 0.5,1,0)}
XCLLPF CLAMP CLAMP_LPF ONE_EDN7116U_ADV_FILTER_TIME_2 PARAMS: TIME_SET=3N
ECLAMPRES CLAMP_RESET 0 VALUE={IF(V(IN_DD) > 0.5 | V(VDD_UV) < 0.5,1,0) }
XMILLERLATCH CLAMP_LPF CLAMP_RESET CLAMP_OUT CLAMP_NOUT ONE_EDN7116U_RS_LATCH
G_UNPOWERED OUT_SNK VSS VALUE={TABLE(V(OUT_SNK,VSS),0,0,1,100U,1.2,3M)* IF(V(VDD_UV_100N) < 0.5,1,0)}
X0NBF VDD_UV VDD_UV_100N ONE_EDN7116U_ADV_FILTER_TIME_2 PARAMS: TIME_SET=100N
RVOFF OUT_SNK VSS 100E6
RVOFF2 OUT_SRC VDD 100E6
COUT OUT_SNK VSS 25P
COUT2 OUT_SRC VDD 25P
E4 VDD OUT_GATE_P VALUE {V(OUT_GATE_VGSP)* IF( V(OUT_GATE_DIG) > 0.5 & V(VDD_UV) > 0.5,1,0)}
E5 OUT_GATE_N VSS VALUE {V(OUT_GATE_VGSN)* IF(V(OUT_GATE_DIG) < 0.5 & V(VDD_UV) > 0.5,1,0)}
R5G OUT_GATE_N VSS 1E12
E5X OUT_GATE_MILLER VSS VALUE {V(OUT_GATE_VGSN_MILLER)* IF(V(CLAMP_OUT) > 0.5 ,1,0)}
E4A VDD BST_P VALUE {V(BST_VGSP)* IF( V(OUT_GATE_DIG) > 0.5 & V(VDD_UV) > 0.5,1,0)}
E5A BST_N VSS VALUE {V(BST_VGSN)* IF(V(OUT_GATE_DIG) < 0.5 & V(VDD_UV) > 0.5,1,0)}
M_OUT_PMOS OUT_SRC OUT_GATE_P VDD VDD ONE_EDN7116U_LO_PMOS
M_OUT_NMOS OUT_SNK OUT_GATE_N VSS VSS ONE_EDN7116U_LO_NMOS
M_OUT_NMOS_MILLER OUT_SNK OUT_GATE_MILLER VSS VSS ONE_EDN7116U_MILLER_NMOS
M_BST_PMOS BST BST_P VDD VDD ONE_EDN7116U_BST_PMOS
M_BST_NMOS BST BST_N VSS VSS ONE_EDN7116U_BST_NMOS
RBST BST VSS 1E12
CBST BST VSS 10P
.MODEL ONE_EDN7116U_LO_PMOS PMOS (LEVEL=1 VTO=-1 CGSO=100P W=10M L=1U RB=1 RG=10 RS=1M RD=10M LAMBDA=0.111 KP=64U )
.MODEL ONE_EDN7116U_LO_NMOS NMOS (LEVEL=1 VTO=1 CGSO=100P W=10M L=1U RB=1 RG=10 RS=1M RD=10M LAMBDA=0.111 KP=64U)
.MODEL ONE_EDN7116U_MILLER_NMOS NMOS (LEVEL=1 VTO=1 CGSO=100P W=10M L=1U RB=1 RG=10 RS=1M RD=10M LAMBDA=0.011 KP=299U)
.MODEL ONE_EDN7116U_BST_PMOS PMOS (LEVEL=1 VTO=-1 CGSO=100P W=10M L=1U RB=1 RG=10 RS=1M RD=10M LAMBDA=0.111 KP=64U )
.MODEL ONE_EDN7116U_BST_NMOS NMOS (LEVEL=1 VTO=1 CGSO=100P W=10M L=1U RB=1 RG=10 RS=1M RD=10M LAMBDA=0.111 KP=64U )
.ENDS ONE_EDN7116U_OUTPUT_STAGE
.SUBCKT ONE_EDN7116U_VDD_UV_DETECT VDD_UV VDD VSS TEMP
E1 VDD_UVH 0 VALUE={TABLE(V(TEMP), -40, 3.81, 25, 3.85, 125,3.81)}
E2 VDD_UVL 0 VALUE={TABLE(V(TEMP), -40, 3.71, 25,3.75, 125, 3.71)}
X1 VDD VDD_UV_DIG VSS VDD_UVH VDD_UVL ONE_EDN7116U_STP_IDEAL_2
X2 VDD_UV_DIG VDD_UV ONE_EDN7116U_ADV_FILTER_TIME_2 PARAMS: TIME_SET=1N
.ENDS ONE_EDN7116U_VDD_UV_DETECT
.SUBCKT ONE_EDN7116U_CC_EMULATOR VDD VSS TEMP
G_VDD VDD VSS VALUE={TABLE(V(TEMP),-40,1.4M,25,1.41M,125,1.4M) * TABLE(V(VDD,VSS),3.85,0,4.1,1,11,1.03571)}
R_VDD VDD VSS 1E12
.ENDS ONE_EDN7116U_CC_EMULATOR
.SUBCKT ONE_EDN7116U_RS_LATCH S R Q QN
R_Q Q 0 1E12
R_QN QN 0 1E12
E_Q Q 0 VALUE={ IF( V(S) > 0.5 & V(R) < 0.5,1, IF( (V(R) > 0.5 ) | TIME < 1NS, 0, IF(V(QN)>0.5,0,1)))}
E_QN QN 0 VALUE={ IF( V(R) > 0.5 ,1, IF( (V(R) < 0.5 & V(S) > 0.5), 0, IF(V(Q)>0.5,0,1))) }
.ENDS ONE_EDN7116U_RS_LATCH
.SUBCKT ONE_EDN7116U_DFF_2 PREB CLRB CLK D Q QN PARAMS: P_C_DELAY=2E-9
R_Q Q 0 1E12
R_QN QN 0 1E12
R1 D 0 1E9
R2 CLK 0 1E9
R3 CLRB 0 1E9
R4 PREB 0 1E9
X1 CLK CLK_DEL ONE_EDN7116U_ADV_FILTER PARAMS: P_C_DELAY={P_C_DELAY}
E_Q Q 0 VALUE={ IF( V(PREB) <0.5 & V(CLRB) > 0.5 , 1,IF( V(PREB) > 0.5 & V(CLRB) > 0.5 & V(CLK,CLK_DEL)>0.1 & V(D) > 0.5 ,1, IF(V(
+ QN) > 0.5 ,0,1))) }
E_QN QN 0 VALUE={IF( (V(PREB) > 0.5 & V(CLRB) < 0.5 ) | TIME <1NS,1 , IF(V(PREB) > 0.5 & V(CLRB) > 0.5 & V(CLK,CLK_DEL) > 0.1 & V(D)
+  < 0.5 , 1, IF( V(Q) > 0.5 , 0, 1))) }
.ENDS ONE_EDN7116U_DFF_2
.SUBCKT ONE_EDN7116U_CL_DIO C A PARAMS: P_V_BV=5 P_I_BV=1
G_CL_DIO C A VALUE {TABLE(V(C,A) , 0,0 , {P_V_BV}*1.01,0 , {P_V_BV}*1.02,{P_I_BV} , 10*{P_V_BV}, 100*{P_I_BV} )}
C_CL_DIO C A 10F
R_CL_DIO C A 1E12
.ENDS ONE_EDN7116U_CL_DIO
.SUBCKT ONE_EDN7116U_ESD_DIO A C PARAMS: P_V_BV=5 P_I_BV=1
G_ESD_DIO A C VALUE {TABLE(V(A,C) , 0,0 , {P_V_BV}*1.01,0 , {P_V_BV}*1.02,{P_I_BV} , 10*{P_V_BV}, 100*{P_I_BV} )}
C_ESD_DIO A C 10F
R_ESD_DIO A C 1E12
.ENDS ONE_EDN7116U_ESD_DIO
.SUBCKT ONE_EDN7116U_RC_DELAY_TEMP_10 IN OUT TEMP PARAMS: TEMP1=-40 TEMP2=25 TEMP3=150 P_TH_TPD_TEMP1=0.5 P_TH_TPD_TEMP2=0.5 
+ P_TH_TPD_TEMP3=0.5 P_R_TPD_TEMP1=1 P_R_TPD_TEMP2=1 P_R_TPD_TEMP3=1
X_D1 IN D1 TEMP ONE_EDN7116U_RC_DELAY_TEMP_5 PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
X_D2 D1 OUT TEMP ONE_EDN7116U_RC_DELAY_TEMP_5 PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
.ENDS ONE_EDN7116U_RC_DELAY_TEMP_10
.SUBCKT ONE_EDN7116U_RC_DELAY_TEMP_5 IN OUT TEMP PARAMS: TEMP1=-40 TEMP2=25 TEMP3=150 P_TH_TPD_TEMP1=0.5 P_TH_TPD_TEMP2=0.5 
+ P_TH_TPD_TEMP3=0.5 P_R_TPD_TEMP1=1 P_R_TPD_TEMP2=1 P_R_TPD_TEMP3=1
X_D1 IN D1 TEMP ONE_EDN7116U_RC_DELAY_BASE_TEMP PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
X_D2 D1 D2 TEMP ONE_EDN7116U_RC_DELAY_BASE_TEMP PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
X_D3 D2 D3 TEMP ONE_EDN7116U_RC_DELAY_BASE_TEMP PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
X_D4 D3 D4 TEMP ONE_EDN7116U_RC_DELAY_BASE_TEMP PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
X_D5 D4 OUT TEMP ONE_EDN7116U_RC_DELAY_BASE_TEMP PARAMS: TEMP1={TEMP1} TEMP2={TEMP2} TEMP3={TEMP3} P_TH_TPD_TEMP1={P_TH_TPD_TEMP1} 
+ P_TH_TPD_TEMP2={P_TH_TPD_TEMP2} P_TH_TPD_TEMP3={P_TH_TPD_TEMP3} P_R_TPD_TEMP1={P_R_TPD_TEMP1} P_R_TPD_TEMP2={P_R_TPD_TEMP2} 
+ P_R_TPD_TEMP3={P_R_TPD_TEMP3}
.ENDS ONE_EDN7116U_RC_DELAY_TEMP_5
.SUBCKT ONE_EDN7116U_RC_DELAY_BASE_TEMP IN OUT TEMP PARAMS: TEMP1=-40 TEMP2=25 TEMP3=150 P_TH_TPD_TEMP1=0.5 P_TH_TPD_TEMP2=0.5 
+ P_TH_TPD_TEMP3=0.5 P_R_TPD_TEMP1=1 P_R_TPD_TEMP2=1 P_R_TPD_TEMP3=1
E_TH_TPD TH_TPD 0 VALUE={TABLE(V(TEMP),{TEMP1},{P_TH_TPD_TEMP1}, {TEMP2}, {P_TH_TPD_TEMP2}, {TEMP3}, {P_TH_TPD_TEMP3}) }
E_R_TPD R_TPD 0 VALUE={TABLE(V(TEMP),{TEMP1},{P_R_TPD_TEMP1}, {TEMP2}, {P_R_TPD_TEMP2}, {TEMP3}, {P_R_TPD_TEMP3})}
G_R_DELAY IN IN_DEL VALUE={V(IN,IN_DEL)/V(R_TPD)}
R_X IN IN_DEL 1E12
C_DELAY IN_DEL 0 1N
E_DELAY OUT 0 VALUE={IF( V(IN_DEL) > V(TH_TPD) , 1.0,0.0 )}
.ENDS ONE_EDN7116U_RC_DELAY_BASE_TEMP
.SUBCKT ONE_EDN7116U_ADV_FILTER IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
R_RISE IN IN_DEL 1
C_RISE IN_DEL 0 {P_C_DELAY}
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS ONE_EDN7116U_ADV_FILTER
.SUBCKT ONE_EDN7116U_ADV_FILTER_2 IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
R_RISE IN IN_DEL 1
C_RISE IN_DEL 0 {P_C_DELAY}
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.14616780031
.ENDS ONE_EDN7116U_ADV_FILTER_2
.SUBCKT ONE_EDN7116U_STP_IDEAL IN OUT GND PARAMS: P_TH_UP=0.9 P_TH_DW=0.1
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>={P_TH_UP} | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<={P_TH_DW} | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTP)}
.ENDS ONE_EDN7116U_STP_IDEAL
.SUBCKT ONE_EDN7116U_STP_IDEAL_2 IN OUT GND UP DW
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>=V(UP) | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<=V(DW) | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTP)}
.ENDS ONE_EDN7116U_STP_IDEAL_2
.SUBCKT ONE_EDN7116U_STN_IDEAL IN OUT GND PARAMS: P_TH_UP=0.9 P_TH_DW=0.1
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>={P_TH_UP} | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<={P_TH_DW} | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTN)}
.ENDS ONE_EDN7116U_STN_IDEAL
.SUBCKT ONE_EDN7116U_TIMING_FILTER_ON IN OUT TIME
R1 IN 0 1E9
R2 OUT 0 1E9
G_RISE IN IN_DEL VALUE={V(IN,IN_DEL)/ MAX((V(TIME)/ABS(LOG(0.001))/1E-9),0.1)}
C_RISE IN_DEL 0 1N
R_3 IN_DEL 0 1E12
GA IN_DEL 0 VALUE={V(IN_DEL,0)/1M* IF( V(IN) < 0.5,1,0)}
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS ONE_EDN7116U_TIMING_FILTER_ON
.SUBCKT ONE_EDN7116U_TIMING_FILTER_OFF IN OUT TIME
R1 IN 0 1E9
R2 OUT 0 1E9
G_RISE IN IN_DEL VALUE={V(IN,IN_DEL)/ MAX((V(TIME)/ABS(LOG(0.001))/1E-9),0.1)}
C_RISE IN_DEL 0 1N
R_3 IN_DEL 0 1E12
E_SUP SUP 0 VALUE={1}
GA SUP IN_DEL VALUE={V(SUP, IN_DEL)/1M* IF( V(IN) > 0.5,1,0)}
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS ONE_EDN7116U_TIMING_FILTER_OFF
.SUBCKT ONE_EDN7116U_ADV_FILTER_TIME IN OUT TIME
R1 IN 0 1E9
R2 OUT 0 1E9
G_RISE IN IN_DEL VALUE={V(IN,IN_DEL)/ MAX((V(TIME)/ABS(LOG(0.001))/1E-9),0.1)}
C_RISE IN_DEL 0 1N
R_3 IN_DEL 0 1E12
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS ONE_EDN7116U_ADV_FILTER_TIME
.SUBCKT ONE_EDN7116U_ADV_FILTER_TIME_2 IN OUT PARAMS: TIME_SET=1N
R1 IN 0 1E9
R2 OUT 0 1E9
G_RISE IN IN_DEL VALUE={V(IN,IN_DEL)/ MAX(({TIME_SET}/ABS(LOG(0.001))/1E-9),0.1)}
C_RISE IN_DEL 0 1N
R_3 IN_DEL 0 1E12
X_CMP IN_DEL OUT 0 ONE_EDN7116U_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS ONE_EDN7116U_ADV_FILTER_TIME_2
.SUBCKT ONE_EDN7116U_THERMAL_NETS TAMB TJ TC POW PARAMS: THERMAL_MODEL=0
G_THERM_POW1 0 TJ VALUE={IF ( TIME>50NS ,V(POW),0.0)}
R_TH1 TJ 0 1G
X_TH_1 TJ TC TAMB ONE_EDN7116U_PG_DSO_8_60
.ENDS ONE_EDN7116U_THERMAL_NETS
.SUBCKT ONE_EDN7116U_PG_DSO_8_60 J C A
RJC J C 28
RCA C A 52
CJC J C 10P
CCA C A 10P
CTCTOP C A 377U
CTJ J A 190.70U
.ENDS ONE_EDN7116U_PG_DSO_8_60